US04450173
2,3-Epoxypropoxybenzene
A mixture of 9.4 gm (0.1 mole) of phenol, 28 gm (0.2 mole) of potassium carbonate and 30 mL (0.4 mole) of epichlorohydrin in 250 mL acetone was heated to reflux for 12 hours. The reaction medium was then filtered and evaporated leaving an oil which was taken up in toluene and successively washed with 100 mL water, 2×100 mL 1.0 N sodium hydroxide and 2×100 mL water. The toluene phase was dried with magnesium sulfate and evaporated to provide a clear oil which was chromatographed on a Prep-500 silica gel column employing hexane: ethyl acetate (9:1) as the mobile phase. Collection of the major peak and evaporation of solvent provided 9 gm (60%) of a clear oil whose NMR and IR spectra were consistent with the assigned structure.

reactant | phenol | 0.1 mole, 9.4 gm | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.2 mole, 28 gm | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 0.4 mole, 30 mL | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-Epoxypropoxybenzene | 9 gm, 60% | O1C(COC2=CC=CC=C2)C1 | C9H10O2
